US08865899B2
Preparation of 4-(4-bromo-2-fluoroanilino)-6-methoxy-7-(1-methylpiperidin-4-ylmethoxy)quinazoline (ZD6474)
7-(1-tert-butoxycarbonyl)piperidine-4-ylmethoxy)-4-(4-bromo-2-fluoroanilino)-6-methoxyquinazoline (40 g), water (16 ml), formic acid (43 ml) and aqueous formaldehyde (37% w/w, 33 ml) were added to a vessel equipped with overhead stirrer, reflux condenser and thermometer. The reaction mixture was heated to 81° C. and stirred at this temperature for 5 hours. The reaction mixture was cooled to 60° C. and tetrahydrofuran (178 ml) was added. The temperature of the reaction mixture was adjusted to 40° C. and potassium hydroxide (49% w/w, 84 ml) was added, followed by water (22 ml). The aqueous phase was separated and discarded. The organic phase was adjusted to 60° C. and water (107 ml) and butyl acetate (107 ml) were added. The aqueous phase was separated and discarded. The organic phase was filtered, following through with tetrahydrofuran (18 ml) wash. The temperature of the filtrates was adjusted to 60° C. and butyl acetate (107 ml) was added. The reaction mixture was set for distillation at ambient pressure. The distillation was stopped when the contents temperature reached 106° C. The slurry was cooled to 65° C. and tetrahydrofuran (107 ml) was added. The slurry was cooled to 0-5° C. and held for 1 hour before isolating the product by filtration. The product was washed with ethyl acetate (72 ml) and dried at 50° C. Yield: 24.82 g, 80.3%.

reactant | 4-(4-bromo-2-fluoroanilino)-6-methoxyquinazoline | 40 g | BrC1=CC(=C(NC2=NC=NC3=CC=C(C=C23)OC)C=C1)F | C15H11BrFN3O
reactant | formaldehyde | 33 ml | C=O | CH2O
reactant | potassium hydroxide | 84 ml | [OH-].[K+]
reactant | tetrahydrofuran | 178 ml | O1CCCC1 | C4H8O
solvent | water | 22 ml | O | H2O
solvent | formic acid | 43 ml | C(=O)O | CH2O2
solvent | water | 16 ml | O | H2O
product | 4-(4-bromo-2-fluoroanilino)-6-methoxy-7-(1-methylpiperidin-4-ylmethoxy)quinazoline | BrC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCC2CCN(CC2)C)C=C1)F | C22H24BrFN4O2
